*Custom Compiler Version N-2017.12-SP1-2
*Tue Apr 21 19:40:12 2026

.GLOBAL 0 gnd!
********************************************************************************
* Library          : nmos_nm
* Cell             : nmos_dc
* View             : starrc
* View Search List : hspice schematic symbol
* View Stop List   : symbol
********************************************************************************
.subckt nmos_dc outs
r88 63:ln_n_14 ln_n_14  r=0.245
r87 57:vdd! 62:vdd!  r=0.142222
r86 55:vdd! 60:vdd!  r=0.05
r85 55:vdd! 59:vdd!  r=0.05
r84 54:vdd! 57:vdd!  r=0.137778
r83 54:vdd! 56:vdd!  r=0.0755555
r82 54:vdd! 55:vdd!  r=2
r81 52:vdd! 53:vdd!  r=0.119
r80 51:vdd! 52:vdd!  r=0.266
r79 50:vdd! 51:vdd!  r=0.266
r78 49:vdd! 50:vdd!  r=0.266
r77 48:vdd! 49:vdd!  r=0.266
r76 47:vdd! 48:vdd!  r=0.266
r75 46:vdd! 47:vdd!  r=0.266
r74 45:vdd! 46:vdd!  r=0.266
r73 44:vdd! 45:vdd!  r=0.266
r72 43:vdd! 60:vdd!  r=0.469
r71 43:vdd! 44:vdd!  r=0.266
r70 42:vdd! 58:vdd!  r=0.0368421
r69 42:vdd! 57:vdd!  r=2
r68 40:vdd! 61:vdd!  r=0.00628772
r67 40:vdd! 42:vdd!  r=0.0319298
r66 38:vdd! 39:vdd!  r=10.35
r65 37:vdd! 41:vdd!  r=5.44737
r64 37:vdd! 40:vdd!  r=18
r63 37:vdd! 38:vdd!  r=4.73685
r62 mm0|drn 43:vdd!  r=18
r61 mm0|drn 44:vdd!  r=18
r60 mm0|drn 45:vdd!  r=18
r59 mm0|drn 46:vdd!  r=18
r58 mm0|drn 47:vdd!  r=18
r57 mm0|drn 48:vdd!  r=18
r56 mm0|drn 49:vdd!  r=18
r55 mm0|drn 50:vdd!  r=18
r54 mm0|drn 51:vdd!  r=18
r53 mm0|drn 52:vdd!  r=18
r52 36:vdd! vdd!  r=11.7
r51 mm0|gate 39:vdd!  r=90.0001
r50 mm0|gate 36:vdd!  r=90.0001
r49 34:outs 35:outs  r=0.119
r48 33:outs 34:outs  r=0.266
r47 32:outs 33:outs  r=0.266
r46 outs 32:outs  r=0.1225
r45 31:outs outs  r=0.1435
r44 30:outs 31:outs  r=0.266
r43 29:outs 30:outs  r=0.266
r42 28:outs 29:outs  r=0.266
r41 27:outs 28:outs  r=0.266
r40 26:outs 27:outs  r=0.266
r39 24:outs 26:outs  r=0.266
r38 24:outs 25:outs  r=0.119
r37 mm0|src 24:outs  r=18
r36 mm0|src 26:outs  r=18
r35 mm0|src 27:outs  r=18
r34 mm0|src 28:outs  r=18
r33 mm0|src 29:outs  r=18
r32 mm0|src 30:outs  r=18
r31 mm0|src 31:outs  r=18
r30 mm0|src 32:outs  r=18
r29 mm0|src 33:outs  r=18
r28 mm0|src 34:outs  r=18
r27 19:gnd! 22:gnd!  r=0.05
r26 19:gnd! 20:gnd!  r=0.05
r25 18:gnd! 21:gnd!  r=0.0872131
r24 18:gnd! gnd!  r=0.184754
r23 18:gnd! 19:gnd!  r=2
r22 17:gnd! mm0|bulk  r=5.79813e-07
r21 14:gnd! 23:gnd!  r=0.0991666
r20 12:gnd! 22:gnd!  r=0.250341
r19 12:gnd! 14:gnd!  r=0.4375
r18 11:gnd! 17:gnd!  r=9.95455
r17 11:gnd! 16:gnd!  r=7.36364
r16 11:gnd! 13:gnd!  r=7.36364
r15 11:gnd! 12:gnd!  r=18
r14 10:gnd! 13:gnd!  r=34.6364
r13 9:gnd! 17:gnd!  r=9.95455
r12 9:gnd! 15:gnd!  r=7.36364
r11 9:gnd! 14:gnd!  r=18
r10 9:gnd! 11:gnd!  r=19.9091
r9 9:gnd! 10:gnd!  r=7.36364
r8 7:ln_n_15 8:ln_n_15  r=202.05
r7 7:ln_n_15 ln_n_15  r=10.1842
r6 6:ln_n_11 ln_n_11  r=0.149333
r5 5:ln_n_11 6:ln_n_11  r=3.052
r4 4:ln_n_12 ln_n_12  r=0.125263
r3 3:ln_n_12 4:ln_n_12  r=0.107333
r2 2:ln_n_13 ln_n_13  r=0.536666
r1 1:ln_n_13 2:ln_n_13  r=0.347718
cg52 62:vdd! 0  c=6.41295e-17
c51 62:vdd! 23:gnd!  c=9.79185e-19
c50 62:vdd! 35:outs  c=1.06954e-17
c49 62:vdd! gnd!  c=5.76821e-18
c48 62:vdd! mm0|bulk  c=1.36722e-17
c47 62:vdd! 22:gnd!  c=6.56572e-19
cg46 61:vdd! 0  c=4.15562e-18
c45 61:vdd! 23:gnd!  c=5.75075e-19
c44 61:vdd! 35:outs  c=8.40421e-18
c43 61:vdd! 22:gnd!  c=2.97867e-25
c42 61:vdd! 13:gnd!  c=4.10673e-20
c41 61:vdd! mm0|src  c=2.70002e-18
c40 61:vdd! mm0|bulk  c=3.00494e-18
c39 61:vdd! gnd!  c=5.81213e-20
c38 61:vdd! 7:ln_n_15  c=5.58339e-17
cg37 60:vdd! 0  c=4.97769e-17
c36 60:vdd! 23:gnd!  c=9.75415e-18
c35 60:vdd! 35:outs  c=7.27899e-17
c34 60:vdd! 13:gnd!  c=2.46132e-18
c33 60:vdd! mm0|bulk  c=9.1782e-18
c32 60:vdd! gnd!  c=1.69833e-18
c31 60:vdd! 7:ln_n_15  c=1.06809e-16
cg30 59:vdd! 0  c=8.17299e-18
c29 59:vdd! 23:gnd!  c=2.24495e-19
c28 59:vdd! gnd!  c=7.28512e-19
c27 59:vdd! mm0|bulk  c=3.46691e-18
c26 59:vdd! 7:ln_n_15  c=6.01588e-18
c25 39:vdd! 23:gnd!  c=1.49801e-18
c24 39:vdd! 35:outs  c=2.46161e-17
c23 39:vdd! 7:ln_n_15  c=5.33394e-18
c22 mm0|drn 7:ln_n_15  c=1.97258e-16
c21 mm0|drn 23:gnd!  c=2.33222e-18
c20 mm0|drn mm0|src  c=2.55272e-16
c19 mm0|drn 13:gnd!  c=1.80006e-17
cg18 35:outs 0  c=5.00489e-17
c17 35:outs 7:ln_n_15  c=7.05992e-17
c16 35:outs gnd!  c=1.85115e-18
c15 35:outs 23:gnd!  c=1.23544e-17
c14 35:outs 12:gnd!  c=7.86231e-19
c13 35:outs mm0|bulk  c=8.83835e-18
c12 35:outs 13:gnd!  c=1.71683e-18
c11 mm0|src 7:ln_n_15  c=1.3517e-16
c10 mm0|src 23:gnd!  c=1.51879e-18
c9 mm0|src 13:gnd!  c=1.98111e-17
cg8 23:gnd! 0  c=1.08013e-17
c7 23:gnd! 7:ln_n_15  c=3.12349e-18
cg6 22:gnd! 0  c=1.16242e-17
cg5 gnd! 0  c=6.58124e-17
c4 mm0|bulk 7:ln_n_15  c=2.80526e-17
c3 13:gnd! 7:ln_n_15  c=5.37056e-18
cg2 12:gnd! 0  c=4.27439e-18
cg1 7:ln_n_15 0  c=3.06243e-17
mm0 mm0|drn mm0|gate mm0|src mm0|bulk N w=2u l=0.1u nf=1 m=1 ad=0.44p as=0.44p
+ pd=4.44u ps=4.44u nrd=1.15789 nrs=1.15789 sa=0.22u sb=0.22u sd=0u
.ends nmos_dc

********************************************************************************
* Library          : nmos_nm
* Cell             : nmos_dc_test
* View             : schematic
* View Search List : hspice schematic symbol
* View Stop List   : symbol
********************************************************************************
xi0 outs nmos_dc

